US07338958B2
Production of (RS)-S-{4-[(5-bromo-4-ethoxypyrimidin-2-yl)amino]phenyl}-S-ethyl sulfoximide
28 mg (0.056 mmol) of (RS)-S-[4-({5-bromo-4-[(1R,2R)-2-hydroxy-1-methylpropoxy]pyrimidin-2-yl}amino)phenyl]-N-(ethoxycarbonyl)-S-methyl sulfoximide in 0.11 ml of ethanol is mixed with 0.32 ml (0.113 mmol) of a 0.35 molar solution of NaOEt in ethanol and stirred under reflux for 6 hours. The batch is stirred overnight at room temperature, and then added to a saturated NaCl solution. It is extracted with ethyl acetate, and the combined organic phases are dried (Na2SO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (DCM/EtOH 85:15). 9 mg (0.023 mmol, corresponding to 42% of theory) of the product is obtained.

reactant | (RS)-S-[4-({5-bromo-4-[(1R,2R)-2-hydroxy-1-methylpropoxy]pyrimidin-2-yl}amino)phenyl]-N-(ethoxycarbonyl)-S-methyl sulfoximide | 0.056 mmol, 28 mg | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C)O[C@@H]([C@@H](C)O)C | C18H23BrN4O5S
reactant | NaOEt | CC[O-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | ethanol | 0.11 ml | C(C)O | C2H6O
product | (RS)-S-{4-[(5-bromo-4-ethoxypyrimidin-2-yl)amino]phenyl}-S-ethyl sulfoximide | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=N)CC)OCC | C14H17BrN4O2S
